US07087626B2
4-(6-Pyridin-2-yl-2,3-dihydro-pyrazolo[5,1-b]oxazol-7-yl)-quinoline dioxylate salt
To a solution of 5-pyridin-2-yl-4-quinolin-4-yl 2H-pyrazol-3-ol (50 mg, 0.17 mmol), ethylene glycol (15 mg, 0.24 mmol) and tri-n-butylphosphine (100 mg, 0.50 mmol) in tetrahydrofuran (15 mL) is added 1,1′-(azodicarbonyl)dipiperidine (120 mg, 0.48 mmol). The solution is heated at reflux for 5 h, cooled, and filtered through an SCX cartridge. The residue is chromatographed on SiO2 (15:1 dichloromethane:methanol). The product residue is converted to the disoxylate salt to give the title compound 40 mg (46%).

reactant | 5-pyridin-2-yl-4-quinolin-4-yl 2H-pyrazol-3-ol | 0.17 mmol, 50 mg | N1=C(C=CC=C1)C=1C(=C(NN1)O)C1=CC=NC2=CC=CC=C12 | C17H12N4O
reactant | ethylene glycol | 0.24 mmol, 15 mg | C(CO)O | C2H6O2
reactant | tri-n-butylphosphine | 0.50 mmol, 100 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 0.48 mmol, 120 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 4-(6-Pyridin-2-yl-2,3-dihydro-pyrazolo[5,1-b]oxazol-7-yl)-quinoline | 40 mg, 46% | N1=C(C=CC=C1)C1=NN2C(OCC2)=C1C1=CC=NC2=CC=CC=C12 | C19H14N4O
